US06884813B2
Preparation of N-[[(5S)-3-[4-(3,4-dihydro-4-hydroxy-1,1-dioxido-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
A solution of (S)-N-[[3-[4-(3,6-dihydro-1,1-dioxido-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (0.415 g, 1.08 mmol; prepared as described in U.S. Pat. No. 5,968,962) in 1:1 t-butanol-water (4 mL) is added to a solution of the standard reagent AD mix-β (1.51 g; available from Aldrich Co.) and methanesulfonamide (0.103 g, 1.08 mmol) in 1:1 t-butanol-water (10 mL) cooled at 0° C. The reaction mixture is stirred 5 days at 4° C. and then treated with sodium sulfite (1.5 g) and stirred 30 minutes. The solution is then extracted with four 10 mL portions of ethyl acetate and the combined organic phases dried (MgSO4), filtered and concentrated. Purification by column chromatography (0-5% MeOH-DCM) provided the title compound as a mixture of diastereomers. Yield 0.29 g (64%). 1H NMR.

reactant | (S)-N-[[3-[4-(3,6-dihydro-1,1-dioxido-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | O=S1(CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)=O | C17H19FN2O5S
reactant | methanesulfonamide | 1.08 mmol, 0.103 g | CS(=O)(=O)N | CH5NO2S
reactant | sodium sulfite | 1.5 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | t-butanol water | 10 mL | C(C)(C)(C)O.O
solvent | t-butanol water | 4 mL | C(C)(C)(C)O.O
product | N-[[(5S)-3-[4-(3,4-dihydro-4-hydroxy-1,1-dioxido-2H-thiopyran-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | OC1(CCS(C=C1)(=O)=O)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H19FN2O6S
